US07964633B2
5-hydroxymethyl-thiophene-2-sulfonic acid amide
To a solution of 0.442 g 5-sulfamoyl-thiophene-2-carboxylic acid methyl ester in 8 ml tetrahydrofuran was added 0.044 g lithiumborohydride and the mixture was stirred at room temperature for 20 h. To the resulting mixture was added an other 0.088 g lithiumborohydride and the mixture was stirred at room temperature for 2 h and at reflux for 20 h. The resulting suspension was partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel with ethyl acetate to yield 0.300 g of the title compound as white crystals melting at 70-71° C.

reactant | 5-sulfamoyl-thiophene-2-carboxylic acid methyl ester | 0.442 g | COC(=O)C=1SC(=CC1)S(N)(=O)=O | C6H7NO4S2
reactant | lithiumborohydride | 0.044 g | [BH4-].[Li+]
reactant | lithiumborohydride | 0.088 g | [BH4-].[Li+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 5-hydroxymethyl-thiophene-2-sulfonic acid amide | 0.300 g | OCC1=CC=C(S1)S(=O)(=O)N | C5H7NO3S2
